US04966913
p-Anisoyl cyanide was prepared according to the general procedure reported by G. A. Olah et al. [supra]. Under dry conditions, 1.8740 g of p-anisoyl chloride (99%, Aldrich) (10.98 mmol), 30 mL of methylene chloride, freshly distilled from phosphorus pentoxide under nitrogen, and 1.7 mL of trimethylsilyl cyanide (13 mmol) were added to a 100-mL round bottom flask. To this solution, 0.27 mL of tin (IV) chloride (2.3 mmol) was added. The reaction was stirred for 2 hr at room temperature. During the 2 hr, the color of the solution changed from clear to dark brown. After the 2 hr of stirring, the reaction was quenched with 75 mL of ice-cold water and then extracted with two 75-mL portions of methylene chloride. The methylene chloride extracts were combined, washed with two 75-mL portions of ice-cold water, dried with MgSO4, and filtered. The methylene chloride was removed by rotary evaporation to yield 1.592 g (90%) of p-anisoyl cyanide as a dark orange solid: IR (CHCl3) (partial) 3020, 2220, 1675, 1600 cm-1.

reactant | p-anisoyl chloride | 10.98 mmol, 1.8740 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | trimethylsilyl cyanide | 13 mmol, 1.7 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | tin (IV) chloride | 2.3 mmol, 0.27 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | p-anisoyl cyanide | 1.592 g, 90% | C(C1=CC=C(C=C1)OC)(=O)C#N | C9H7NO2
